US03966966
Step C: [1' ,3'-Dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxyl] acetonitrile
A stirred mixture of 4'-chloro-5'-methyl-6'-hydroxyspiro(cyclopentane-1,2'-indan)-1' ,3'-dione (9.3 g., 0.035 mole), chloroacetonitrile (2.83 g., 0.0375 mole), potassium carbonate (5.2 g., 0.0375 mole) and potassium iodide (6.2 g., 0.0375 mole) in dimethylformamide (100 ml.) is heated at 65°C. for 21/2 hours, cooled, then poured into water (1.5 1.) affording 10.7 g. of [1' ,3'-dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxylacetonitrile which melts at 137°-9°C. after recrystallization from ethanol-water.

reactant | 4'-chloro-5'-methyl-6'-hydroxyspiro(cyclopentane-1,2'-indan)-1' ,3'-dione | 0.035 mole, 9.3 g | ClC1=C2C(C3(C(C2=CC(=C1C)O)=O)CCCC3)=O | C14H13ClO3
reactant | chloroacetonitrile | 0.0375 mole, 2.83 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 0.0375 mole, 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.0375 mole, 6.2 g | [I-].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [1' ,3'-Dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxyl] acetonitrile | O=C1C2(C(C3=C(C(=C(C=C13)OCC#N)C)Cl)=O)CCCC2 | C16H14ClNO3
